US04610819
2-[(Dimethylamino)methyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione hemifumarate
To a solution of 4.8 g of 2-[(dimethylamino)methyl]2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one in 50 ml of toluene was added 4.9 g of 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulfide. The reaction mixture was kept at reflux for two hours. Concentrated potassium carbonate solution was added which caused separation to give a three-layer system: a toluene layer, an aqueous layer and a gummy layer. Only the toluene and aqueous layer contained the desired free base of the title compound. The layers were separated and the gummy layer was discarded. The aqueous layer was extracted three times with methylene chloride. The methylene chloride extracts after washing with saturated sodium chloride solution were combined with the toluene layer. This organic solution was dried over anhydrous sodium sulfate and evaporated to give 5.25 g of oil. The oil, the free base of the title compound, was dissolved in methanol to which solution was added 2.45 g of fumaric acid. The mixture was heated with stirring and isopropyl alcohol was added to the point of cloudiness and the mixture was stirred overnight. Yellow powder was obtained, 2.85 g, which was recrystallized from methanol, m.p. 178°-179° C.

reactant | 2-[(dimethylamino)methyl]2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepin-5(4H)-one | 4.8 g | CN(C)CC1OC2=C(C(N(C1)C)=O)C=CC=N2 | C12H17N3O2
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulfide | 4.9 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(Dimethylamino)methyl]-2,3-dihydro-4-methylpyrido[3,2-f][1,4]oxazepine-5(4H)-thione hemifumarate | C(\C=C\C(=O)O)(=O)O.CN(C)CC1OC2=C(C(N(C1)C)=S)C=CC=N2.CN(C)CC2OC1=C(C(N(C2)C)=S)C=CC=N1 | InChI=1S/2C12H17N3OS.C4H4O4/c2*1-14(2)7-9-8-15(3)12(17)10-5-4-6-13-11(10)16-9;5-3(6)1-2-4(7)8/h2*4-6,9H,7-8H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;;2-1+
